US04971993
N-t-butyloxycarbonylglycine (21.02 g, 120 mmole), L-proline benzylester hydrochloride (29.01 g, 120 mmole) and HOBt (1.62 g, 12 mmole) were dissolved in methylene chloride (400 ml), and triethylamine (12.14 g, 120 mmole) and WSC hydrochloride (23.00 g, 120 mmole) were added to the solution at -30° C. The mixture was stirred for 2 hours at less than 0° C., and then overnight at room temperature. The solution was washed with 5% aqueous sodium bicarbonate (400 ml, twice), 5% aqueous citric acid (400 ml, twice) and water (400 ml) in the order given, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give N-t-butyloxycarbonylglycyl-l-proline benzylester(yield 42.50 g, 97.7%).

reactant | N-t-butyloxycarbonylglycine | 120 mmole, 21.02 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | L-proline benzylester hydrochloride | 120 mmole, 29.01 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBt | 12 mmole, 1.62 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 120 mmole, 12.14 g | C(C)N(CC)CC | C6H15N
reactant | WSC hydrochloride | 120 mmole, 23.00 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-t-butyloxycarbonylglycyl-l-proline benzylester | yield 42.50 g, 97.7% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CNC(=O)OC(C)(C)C)=O)=O | C19H26N2O5
